US05521167
3β-Mercapto-androst-4-en-17-one (III-a)
A solution of 1.3 g of 3β-acetylthio-androst-4-en-17-one (IV-a, Prep 7) in 20 ml of methanol, was saturated with gaseous ammonia and kept on standing for 3 hrs at room temperature. The mixture was evaporated to dryness under reduced pressure and purified by flash-chromatography (SiO2) using n-hexane/ethyl acetate 95/5 as eluant to give 1.1 g of the title compound (IIIa) as a white solid.

reactant | 3β-acetylthio-androst-4-en-17-one | 1.3 g | C(C)(=O)S[C@@H]1C=C2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O | C21H30O2S
reactant | ammonia | N | H3N
solvent | methanol | 20 ml | CO | CH4O
product | 3β-Mercapto-androst-4-en-17-one | 1.1 g | S[C@@H]1C=C2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O | C19H28OS
